US05411979
To a mixture of 5.33 g (0.133 mol.) of sodium hydride (60%) and 200 ml of anhydrous N,N-dimethylformamide, there was added dropwise a solution of 20.00 g (0.133 mol.) of 4-(1,1-dimethylethyl)phenol in 50 ml of anhydrous N,N-dimethylformamide with stirring at a temperature of from 5° C. to 10° C. for 10 minutes. Then the reaction mixture was stirred at the same temperature for 30 minutes. To the above mixture, there was added dropwise 24.75 g (0.146 mol.) of bromoacetoaldehyde dimethylacetal in 50 ml of anhydrous N,N-dimethylformamide with stirring at the same temperature for 30 minutes. The reaction mixture was then stirred at room temperature for 20 hours. After the reaction was completed, the reaction mixture was poured into water and extracted with ethyl acetate. Then the residue was washed three times with a saturated aqueous solution of ammonium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 30.00 g of 2-[4-(1,1-dimethylethyl)phenoxy]-1,1-dimethoxyethane as a light-yellowish oily substance (nD22.8 1.4911).

reactant | sodium hydride | 0.133 mol, 5.33 g | [H-].[Na+]
reactant | 4-(1,1-dimethylethyl)phenol | 0.133 mol, 20.00 g | CC(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | bromoacetoaldehyde dimethylacetal | 0.146 mol, 24.75 g | COC(CBr)OC | C4H9BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1,1-dimethylethyl)phenoxy]-1,1-dimethoxyethane | 30.00 g | CC(C)(C)C1=CC=C(OCC(OC)OC)C=C1 | C14H22O3
